C1 (net12 net9) C=6.3E-14
T2 (net5 net9 net9 0) pfet L=8.24E-6 W=7.33E-6
C3 (net9 net11) C=0.2E-6
T4 (net12 net8 net8 0) pfet L=0.41E-6 W=9.73E-6
C5 (net10 net12) C=4.2E-11
R6 (net6 net15) R=8.1E4
T7 (net9 net7 net7 0) pfet L=4.46E-6 W=1.23E-6
R8 (net7 net1) R=7.8E0
T9 (net14 net6 net6 0) pfet L=9.22E-6 W=2.87E-6
T10 (net11 net3 net3 0) pfet L=7.72E-6 W=1.04E-6
T11 (net17 net12 net12 0) nfet L=2.93E-6 W=2.69E-6
R12 (net13 net10) R=8.1E5
T13 (net1 net3 net3 0) nfet L=3.15E-6 W=8.33E-6
T14 (net7 net5 net5 0) pfet L=3.76E-6 W=0.57E-6
T15 (0 net6 net6 0) pfet L=3.00E-6 W=8.11E-6
C16 (net6 net2) C=1.7E-13
T17 (0 net12 net12 0) pfet L=8.62E-6 W=9.81E-6
R18 (vdd! net8) R=0.1E2
T19 (net13 net12 net12 0) pfet L=6.80E-6 W=7.21E-6
T20 (net6 net9 net9 0) pfet L=2.69E-6 W=5.77E-6
T21 (0 net7 net7 0) nfet L=4.20E-6 W=2.03E-6
C22 (net14 net2) C=8.9E-12
C23 (net15 net16) C=9.0E-7
T24 (net9 net11 net11 0) pfet L=1.38E-6 W=3.91E-6
R25 (net14 net7) R=6.2E6
C26 (net11 net8) C=9.9E-11
T27 (net14 net13 net13 0) nfet L=7.75E-6 W=6.77E-6
C28 (net4 net7) C=0.3E-14
T29 (net10 net17 net17 0) nfet L=4.53E-6 W=9.77E-6
C30 (net10 net3) C=7.7E-12
R31 (net13 net12) R=7.8E2
T32 (net4 net8 net8 0) nfet L=4.55E-6 W=7.35E-6
T33 (net8 net9 net9 0) pfet L=6.17E-6 W=2.12E-6
T34 (net5 net12 net12 0) nfet L=4.71E-6 W=6.75E-6
R35 (net10 vdd!) R=5.8E5
T36 (net16 net5 net5 0) pfet L=4.58E-6 W=3.44E-6
T37 (net3 net12 net12 0) nfet L=9.71E-6 W=8.82E-6
T38 (net14 net16 net16 0) pfet L=2.16E-6 W=5.10E-6
T39 (vdd! net11 net11 0) pfet L=3.74E-6 W=0.91E-6
T40 (net6 net9 net9 0) nfet L=8.08E-6 W=8.74E-6
C41 (net15 net7) C=0.8E-9
C42 (net12 net2) C=3.8E-9
T43 (net10 net11 net11 0) nfet L=0.95E-6 W=3.54E-6
C44 (net14 net4) C=9.2E-8
T45 (net9 0 0 0) pfet L=5.65E-6 W=4.82E-6
C46 (net1 net13) C=3.7E-10
R47 (net6 vdd!) R=9.0E1
T48 (net3 net10 net10 0) pfet L=5.29E-6 W=3.58E-6
T49 (vdd! net12 net12 0) nfet L=1.04E-6 W=6.27E-6
R50 (net2 net6) R=7.3E5
C51 (net14 net5) C=5.0E-6
T52 (net4 net5 net5 0) pfet L=8.33E-6 W=6.58E-6
C53 (net13 net5) C=3.6E-11
R54 (0 net16) R=5.7E6
C55 (net1 net11) C=3.2E-5
T56 (net17 net3 net3 0) pfet L=1.51E-6 W=8.87E-6
C57 (net4 net7) C=1.7E-12
T58 (net11 net4 net4 0) nfet L=6.08E-6 W=5.62E-6
T59 (net12 net15 net15 0) pfet L=0.81E-6 W=7.56E-6
R60 (net13 net10) R=1.8E0
R61 (net4 net8) R=6.9E2

