C1 (net1 net7) C=0.5E-11
R2 (net3 net7) R=5.8E2
R3 (net5 net6) R=1.9E1
C4 (net6 vdd!) C=6.6E-8
T5 (net3 vdd! vdd! 0) nfet L=5.04E-6 W=4.83E-6
T6 (net1 0 0 0) pfet L=1.66E-6 W=8.83E-6
T7 (net3 net6 net6 0) nfet L=2.49E-6 W=8.68E-6
T8 (net5 net7 net7 0) pfet L=5.51E-6 W=5.99E-6
T9 (net2 net7 net7 0) pfet L=3.28E-6 W=4.87E-6
T10 (net3 net1 net1 0) nfet L=0.81E-6 W=8.99E-6
R11 (net5 net1) R=6.8E4
T12 (vdd! net6 net6 0) pfet L=7.71E-6 W=8.87E-6
T13 (net1 net5 net5 0) nfet L=3.62E-6 W=9.48E-6
T14 (net3 vdd! vdd! 0) nfet L=1.10E-6 W=3.82E-6
T15 (net3 net7 net7 0) pfet L=7.47E-6 W=5.41E-6
R16 (net4 net5) R=6.6E3
T17 (net1 net5 net5 0) nfet L=0.80E-6 W=6.38E-6
T18 (net7 net2 net2 0) nfet L=5.57E-6 W=6.08E-6
C19 (net7 net1) C=7.5E-6
C20 (net6 net7) C=8.9E-6
T21 (net5 net7 net7 0) nfet L=6.83E-6 W=6.15E-6
C22 (net1 net2) C=0.9E-10
C23 (net5 net7) C=4.2E-9
T24 (net6 net5 net5 0) pfet L=4.71E-6 W=4.56E-6
T25 (net4 net3 net3 0) pfet L=4.59E-6 W=6.97E-6
T26 (net4 net5 net5 0) pfet L=4.09E-6 W=4.50E-6
T27 (net5 net2 net2 0) pfet L=2.60E-6 W=5.97E-6
T28 (net4 net2 net2 0) nfet L=6.05E-6 W=8.29E-6
T29 (net6 0 0 0) pfet L=6.70E-6 W=3.34E-6
C30 (net1 net3) C=0.3E-12
C31 (vdd! net2) C=8.4E-11
T32 (net1 net3 net3 0) pfet L=7.19E-6 W=5.20E-6
R33 (net4 net6) R=3.9E3
T34 (net3 net4 net4 0) pfet L=3.47E-6 W=4.76E-6
T35 (net4 net6 net6 0) nfet L=9.53E-6 W=5.57E-6
T36 (net4 net7 net7 0) nfet L=3.08E-6 W=6.73E-6
T37 (net1 net6 net6 0) pfet L=5.61E-6 W=6.60E-6
C38 (net4 net6) C=8.9E-10
T39 (net1 net7 net7 0) nfet L=4.01E-6 W=6.91E-6
R40 (net4 net1) R=6.5E4
C41 (net7 net2) C=1.8E-9
R42 (net6 net5) R=2.9E4
T43 (vdd! net5 net5 0) nfet L=6.30E-6 W=0.78E-6
R44 (net1 net5) R=1.5E0
C45 (net1 net3) C=3.3E-11
R46 (net3 net2) R=3.5E5
T47 (0 net5 net5 0) pfet L=9.24E-6 W=4.56E-6
R48 (net5 net7) R=6.4E5
T49 (net5 net6 net6 0) pfet L=1.33E-6 W=0.17E-6
T50 (net2 net2 net2 0) nfet L=4.18E-6 W=8.37E-6
C51 (net7 net5) C=0.9E-10
T52 (net4 net4 net4 0) nfet L=3.31E-6 W=9.22E-6
T53 (0 net7 net7 0) nfet L=1.19E-6 W=8.94E-6
T54 (vdd! net2 net2 0) nfet L=9.73E-6 W=0.88E-6
C55 (net2 net7) C=4.2E-6
R56 (net2 net1) R=0.7E3
T57 (net2 net3 net3 0) pfet L=4.49E-6 W=8.00E-6
T58 (net3 vdd! vdd! 0) nfet L=4.66E-6 W=1.15E-6
R59 (net5 net7) R=7.4E0
T60 (net2 net6 net6 0) nfet L=6.69E-6 W=4.61E-6
R61 (net3 net6) R=5.0E6
T62 (net7 net4 net4 0) nfet L=0.23E-6 W=3.93E-6
T63 (net5 net7 net7 0) nfet L=0.35E-6 W=8.51E-6
C64 (net2 net4) C=8.5E-13
T65 (net4 net5 net5 0) nfet L=6.18E-6 W=2.66E-6
T66 (net7 net6 net6 0) nfet L=7.02E-6 W=0.15E-6
C67 (net1 net7) C=4.2E-12
C68 (net2 net3) C=3.2E-8
R69 (net3 net2) R=3.5E0
R70 (net3 net6) R=8.3E1
C71 (net3 net7) C=9.7E-6
C72 (0 net5) C=7.4E-13
T73 (vdd! vdd! vdd! 0) nfet L=4.82E-6 W=8.69E-6
T74 (net4 net2 net2 0) nfet L=3.66E-6 W=1.15E-6
C75 (net4 net3) C=0.6E-7
T76 (net1 net4 net4 0) pfet L=4.88E-6 W=5.71E-6
R77 (net3 net1) R=7.0E5
R78 (net3 net2) R=4.4E0
T79 (net5 net3 net3 0) nfet L=9.84E-6 W=0.92E-6
T80 (net2 net3 net3 0) pfet L=6.66E-6 W=0.25E-6
R81 (net1 net6) R=7.8E1
T82 (net4 net6 net6 0) pfet L=8.63E-6 W=1.21E-6
R83 (net1 net6) R=9.4E6
T84 (net1 net5 net5 0) nfet L=7.92E-6 W=1.49E-6
R85 (0 net2) R=8.4E2
C86 (net6 net2) C=8.0E-12
T87 (net3 0 0 0) pfet L=0.51E-6 W=4.67E-6
C88 (net5 net4) C=7.2E-5
R89 (net7 net6) R=1.1E0
T90 (net5 net7 net7 0) pfet L=6.73E-6 W=8.43E-6
R91 (net6 net4) R=4.4E0
T92 (net1 net4 net4 0) nfet L=6.36E-6 W=7.98E-6
C93 (net7 net3) C=0.9E-10
T94 (net2 net4 net4 0) pfet L=8.14E-6 W=1.27E-6
R95 (net6 net5) R=3.3E3
R96 (net5 vdd!) R=4.8E6
C97 (net4 vdd!) C=0.3E-9
T98 (net4 net1 net1 0) nfet L=10.00E-6 W=0.49E-6
R99 (0 net4) R=5.4E0
T100 (net7 net3 net3 0) nfet L=8.34E-6 W=7.02E-6
R101 (net7 net2) R=8.1E4
T102 (0 net7 net7 0) pfet L=8.58E-6 W=0.89E-6
T103 (net2 net5 net5 0) nfet L=3.69E-6 W=3.90E-6
C104 (net5 net7) C=8.6E-14
T105 (net2 net3 net3 0) nfet L=8.38E-6 W=0.78E-6
T106 (net3 net4 net4 0) nfet L=8.49E-6 W=9.33E-6
T107 (net2 net1 net1 0) nfet L=3.32E-6 W=5.15E-6
C108 (net3 net7) C=0.7E-5
T109 (net2 net4 net4 0) pfet L=5.53E-6 W=9.13E-6
T110 (net4 net6 net6 0) pfet L=0.34E-6 W=8.84E-6
R111 (net7 0) R=5.2E5
T112 (0 vdd! vdd! 0) nfet L=8.49E-6 W=8.99E-6
R113 (net3 net4) R=6.5E3
T114 (net2 net6 net6 0) pfet L=8.93E-6 W=3.47E-6
R115 (net6 net2) R=9.6E2
T116 (net3 net2 net2 0) pfet L=2.18E-6 W=4.84E-6
C117 (net4 net5) C=8.6E-7
C118 (net1 net5) C=8.5E-5
T119 (net3 net3 net3 0) pfet L=8.03E-6 W=9.15E-6
T120 (0 net1 net1 0) nfet L=1.94E-6 W=0.56E-6
R121 (net7 net6) R=0.9E4
T122 (net7 vdd! vdd! 0) pfet L=3.17E-6 W=4.07E-6
R123 (net2 net6) R=7.1E3
T124 (net7 net1 net1 0) pfet L=4.89E-6 W=2.01E-6
C125 (net5 net6) C=8.5E-8
T126 (net1 net3 net3 0) pfet L=3.48E-6 W=5.05E-6
T127 (net1 net4 net4 0) nfet L=0.88E-6 W=9.01E-6
T128 (net1 net6 net6 0) pfet L=2.04E-6 W=8.43E-6
R129 (net3 net5) R=5.8E2
C130 (net4 net3) C=8.6E-5
T131 (net1 net1 net1 0) pfet L=2.84E-6 W=5.93E-6
C132 (net2 net1) C=0.5E-5
R133 (net3 net6) R=1.0E2
T134 (net2 net2 net2 0) nfet L=1.05E-6 W=1.09E-6
T135 (net7 0 0 0) pfet L=0.21E-6 W=0.78E-6
C136 (net2 net1) C=9.7E-10
C137 (0 net7) C=3.0E-12
C138 (net1 net4) C=3.6E-10
R139 (net6 net5) R=3.1E6
T140 (net6 net6 net6 0) nfet L=1.85E-6 W=3.59E-6
C141 (net2 net4) C=6.3E-12
R142 (net7 net2) R=2.2E2
C143 (net4 net3) C=9.6E-10
R144 (net7 net1) R=7.1E6
T145 (net1 net7 net7 0) nfet L=3.30E-6 W=3.72E-6
T146 (net7 net7 net7 0) pfet L=1.89E-6 W=5.85E-6
R147 (net4 net1) R=0.8E3
T148 (net2 net5 net5 0) pfet L=7.12E-6 W=9.69E-6
T149 (net2 net1 net1 0) nfet L=2.47E-6 W=5.57E-6
T150 (net2 net4 net4 0) nfet L=1.08E-6 W=8.47E-6
T151 (net6 net1 net1 0) nfet L=4.61E-6 W=5.55E-6
C152 (net4 vdd!) C=0.6E-12
T153 (net4 net4 net4 0) nfet L=4.29E-6 W=4.98E-6
R154 (net1 net5) R=9.5E1
T155 (net2 net4 net4 0) nfet L=6.70E-6 W=2.26E-6
T156 (net3 net1 net1 0) nfet L=4.58E-6 W=7.94E-6
C157 (net2 0) C=1.3E-12
T158 (net4 net2 net2 0) pfet L=5.51E-6 W=1.82E-6
T159 (net5 net3 net3 0) nfet L=6.45E-6 W=2.52E-6
C160 (net6 net2) C=10.0E-7
C161 (vdd! net3) C=9.3E-8
T162 (net1 net3 net3 0) pfet L=1.51E-6 W=6.71E-6
T163 (net6 net5 net5 0) pfet L=7.19E-6 W=8.96E-6
T164 (net3 net7 net7 0) pfet L=5.54E-6 W=8.62E-6
C165 (net3 net6) C=2.4E-6
T166 (net6 net3 net3 0) pfet L=3.72E-6 W=1.57E-6

