R1 (0 net1) R=4.4E0
R2 (net1 0) R=9.4E0
T3 (net1 net1 net1 0) nfet L=0.14E-6 W=3.59E-6
T4 (net1 net1 net1 0) pfet L=0.72E-6 W=7.74E-6
T5 (net1 net1 net1 0) nfet L=8.57E-6 W=4.07E-6
T6 (vdd! net1 net1 0) pfet L=6.97E-6 W=4.29E-6
T7 (net1 0 0 0) nfet L=9.49E-6 W=5.94E-6
T8 (net1 0 0 0) pfet L=5.38E-6 W=9.82E-6
T9 (net1 net1 net1 0) pfet L=2.90E-6 W=9.34E-6
R10 (vdd! net1) R=8.1E5
T11 (net1 vdd! vdd! 0) nfet L=9.55E-6 W=8.08E-6
R12 (vdd! net1) R=3.3E2
T13 (net1 net1 net1 0) nfet L=8.50E-6 W=8.77E-6
T14 (net1 net1 net1 0) nfet L=6.88E-6 W=4.63E-6
T15 (net1 net1 net1 0) pfet L=9.16E-6 W=5.63E-6
T16 (net1 net1 net1 0) pfet L=9.09E-6 W=2.95E-6
T17 (net1 net1 net1 0) nfet L=0.57E-6 W=7.96E-6
C18 (0 net1) C=5.9E-7
T19 (net1 net1 net1 0) nfet L=6.61E-6 W=6.05E-6
T20 (net1 net1 net1 0) nfet L=4.12E-6 W=5.76E-6
R21 (vdd! net1) R=1.4E3
C22 (net1 vdd!) C=9.3E-11
R23 (net1 0) R=7.2E6
T24 (net1 net1 net1 0) nfet L=0.71E-6 W=3.79E-6
T25 (net1 net1 net1 0) nfet L=9.86E-6 W=1.70E-6
T26 (net1 net1 net1 0) nfet L=3.39E-6 W=8.94E-6
T27 (net1 net1 net1 0) pfet L=2.58E-6 W=5.58E-6
R28 (net1 vdd!) R=4.4E6
T29 (net1 net1 net1 0) pfet L=6.87E-6 W=4.85E-6
R30 (vdd! net1) R=4.6E3
R31 (net1 vdd!) R=9.2E5
C32 (net1 vdd!) C=1.8E-10
R33 (vdd! net1) R=8.0E0
T34 (net1 net1 net1 0) nfet L=9.36E-6 W=5.13E-6
T35 (net1 net1 net1 0) nfet L=3.71E-6 W=9.14E-6
R36 (0 net1) R=8.3E5

