T1 (net2 net11 net11 0) nfet L=9.74E-6 W=3.62E-6
R2 (vdd! net27) R=3.6E0
T3 (net3 0 0 0) nfet L=9.81E-6 W=3.48E-6
T4 (net2 vdd! vdd! 0) nfet L=7.03E-6 W=3.99E-6
C5 (0 net28) C=4.4E-11
T6 (net11 net28 net28 0) pfet L=0.18E-6 W=5.37E-6
C7 (net25 net18) C=3.0E-9
R8 (net8 net29) R=8.7E4
T9 (net9 vdd! vdd! 0) pfet L=8.00E-6 W=7.81E-6
R10 (net29 net1) R=6.1E1
C11 (net22 net4) C=3.6E-14
T12 (net15 net23 net23 0) pfet L=8.87E-6 W=6.59E-6
T13 (net26 net12 net12 0) pfet L=6.43E-6 W=3.23E-6
C14 (net31 net2) C=5.0E-9
C15 (net1 net6) C=1.4E-10
T16 (net29 net24 net24 0) pfet L=2.21E-6 W=8.99E-6
T17 (net9 net23 net23 0) nfet L=5.29E-6 W=4.28E-6
T18 (net22 net5 net5 0) nfet L=7.36E-6 W=3.52E-6
T19 (net19 net25 net25 0) pfet L=3.62E-6 W=7.03E-6
T20 (0 net28 net28 0) nfet L=8.55E-6 W=2.05E-6
R21 (net5 net11) R=10.0E1
C22 (net16 net3) C=3.6E-6
T23 (vdd! net31 net31 0) nfet L=2.80E-6 W=2.87E-6
C24 (net12 net24) C=7.9E-8
R25 (net9 net18) R=9.1E2
T26 (net15 net30 net30 0) nfet L=2.13E-6 W=0.13E-6
C27 (net24 net29) C=4.5E-10
T28 (net24 net3 net3 0) nfet L=4.15E-6 W=0.38E-6
C29 (net5 net16) C=4.0E-12
C30 (net15 net3) C=9.8E-8
R31 (net6 net30) R=3.3E2
T32 (net30 0 0 0) pfet L=5.84E-6 W=4.07E-6
T33 (net19 net5 net5 0) pfet L=5.38E-6 W=5.67E-6
R34 (net4 net26) R=9.2E3
T35 (net18 net19 net19 0) pfet L=0.98E-6 W=0.65E-6
R36 (net11 net19) R=5.7E1
T37 (net12 net29 net29 0) nfet L=9.02E-6 W=5.49E-6
R38 (net4 net13) R=6.2E5
C39 (net3 net24) C=5.7E-13
C40 (net30 net16) C=2.2E-5
T41 (net15 net4 net4 0) nfet L=0.80E-6 W=3.90E-6
C42 (net11 net24) C=3.8E-8
C43 (net3 net2) C=8.9E-11
R44 (net28 net4) R=7.0E4
C45 (net2 net19) C=4.0E-9
R46 (net28 net8) R=5.8E1
R47 (net8 net20) R=8.4E4
R48 (net24 net18) R=4.1E2
T49 (net12 net26 net26 0) nfet L=8.22E-6 W=3.95E-6
C50 (net2 net16) C=5.4E-5
C51 (net12 net11) C=1.0E-7
T52 (net10 vdd! vdd! 0) pfet L=0.61E-6 W=9.68E-6
R53 (0 net27) R=3.5E3
R54 (net14 net7) R=3.6E2
C55 (0 net23) C=1.7E-7
C56 (0 net8) C=9.2E-7
T57 (net4 net28 net28 0) pfet L=8.42E-6 W=1.54E-6
C58 (net17 net30) C=2.5E-11
T59 (net10 net4 net4 0) nfet L=6.70E-6 W=6.76E-6
T60 (net2 vdd! vdd! 0) nfet L=1.10E-6 W=2.28E-6
T61 (net25 net26 net26 0) pfet L=9.24E-6 W=5.07E-6
T62 (net31 net27 net27 0) nfet L=5.09E-6 W=2.67E-6
C63 (net16 0) C=5.2E-14
C64 (net29 net18) C=6.2E-13
T65 (net19 net14 net14 0) pfet L=3.08E-6 W=3.68E-6
R66 (net16 net23) R=5.7E2
T67 (net1 net30 net30 0) pfet L=2.26E-6 W=4.40E-6
T68 (net17 0 0 0) nfet L=9.85E-6 W=6.71E-6
T69 (net7 vdd! vdd! 0) pfet L=2.03E-6 W=7.53E-6
T70 (net15 net25 net25 0) pfet L=7.30E-6 W=0.74E-6
R71 (net10 net21) R=7.3E4
R72 (net1 net3) R=1.8E5
C73 (net9 net28) C=7.5E-7
T74 (net2 vdd! vdd! 0) pfet L=8.26E-6 W=6.85E-6
R75 (net10 net26) R=9.6E1
T76 (net6 net6 net6 0) pfet L=1.34E-6 W=9.82E-6
C77 (net14 net28) C=4.5E-8
T78 (net26 net29 net29 0) nfet L=8.71E-6 W=6.10E-6
T79 (net15 net24 net24 0) pfet L=5.48E-6 W=9.39E-6
R80 (net31 net7) R=8.5E3
T81 (net5 net28 net28 0) pfet L=5.69E-6 W=9.27E-6
C82 (net10 net4) C=6.7E-13
R83 (0 net15) R=8.6E5
T84 (net26 net30 net30 0) nfet L=6.42E-6 W=3.75E-6
T85 (net3 net9 net9 0) pfet L=7.19E-6 W=4.62E-6
C86 (net2 net17) C=1.4E-13
R87 (net17 net27) R=3.4E5
R88 (net14 net26) R=5.6E2
T89 (net3 net28 net28 0) nfet L=5.92E-6 W=1.39E-6
C90 (net21 net13) C=0.8E-6
T91 (net13 vdd! vdd! 0) pfet L=5.49E-6 W=1.94E-6
T92 (net6 net27 net27 0) nfet L=5.86E-6 W=8.40E-6
T93 (net17 net1 net1 0) pfet L=8.07E-6 W=1.57E-6
R94 (0 vdd!) R=1.5E5
R95 (net23 0) R=7.1E4
T96 (net6 0 0 0) nfet L=6.51E-6 W=1.50E-6
T97 (net29 net30 net30 0) nfet L=2.61E-6 W=1.68E-6
C98 (net7 0) C=3.1E-12
C99 (net30 net3) C=4.4E-10
T100 (net22 0 0 0) pfet L=7.77E-6 W=5.34E-6
T101 (net29 net13 net13 0) nfet L=2.29E-6 W=1.87E-6
C102 (net15 0) C=0.1E-7
C103 (net29 net20) C=5.8E-14
R104 (net12 net9) R=8.2E6
R105 (net23 net30) R=1.7E2
T106 (net9 net27 net27 0) pfet L=3.43E-6 W=7.74E-6
R107 (net23 net29) R=5.1E4
C108 (net16 net15) C=10.0E-7
R109 (net11 net7) R=7.4E2
C110 (net18 net28) C=4.0E-12
T111 (net4 net2 net2 0) nfet L=2.56E-6 W=5.36E-6
T112 (net17 net31 net31 0) nfet L=8.77E-6 W=8.83E-6
C113 (net2 net12) C=4.1E-10
R114 (net10 net24) R=8.6E0
T115 (net18 net2 net2 0) nfet L=6.39E-6 W=0.16E-6
R116 (net6 net2) R=6.5E5
T117 (net30 net3 net3 0) pfet L=1.81E-6 W=8.53E-6
T118 (net7 net16 net16 0) pfet L=5.53E-6 W=3.11E-6
T119 (net20 net31 net31 0) pfet L=5.80E-6 W=9.80E-6
R120 (net25 net12) R=9.2E6
C121 (net25 net5) C=2.5E-14
R122 (net22 net14) R=4.3E5
T123 (net25 net22 net22 0) nfet L=4.11E-6 W=9.01E-6
C124 (net26 net9) C=9.4E-6
C125 (net18 net3) C=9.8E-14
T126 (net30 net9 net9 0) pfet L=9.48E-6 W=6.73E-6
T127 (net27 net23 net23 0) pfet L=7.18E-6 W=5.86E-6
R128 (net1 net26) R=3.7E3
T129 (net19 net11 net11 0) nfet L=9.57E-6 W=5.72E-6
T130 (net17 net26 net26 0) pfet L=1.33E-6 W=9.75E-6
T131 (net30 net21 net21 0) nfet L=4.90E-6 W=1.49E-6
C132 (vdd! 0) C=6.6E-12

