T1 (net67 net98 net98 0) nfet L=0.47E-6 W=2.13E-6
T2 (net19 net43 net43 0) nfet L=1.55E-6 W=0.51E-6
T3 (net99 net28 net28 0) nfet L=9.31E-6 W=7.63E-6
R4 (net69 net97) R=6.8E5
R5 (net75 net103) R=8.9E3
T6 (0 net87 net87 0) pfet L=6.93E-6 W=2.19E-6
T7 (net30 net4 net4 0) nfet L=4.11E-6 W=7.80E-6
C8 (net57 net17) C=3.5E-9
C9 (net85 net36) C=0.7E-10
C10 (vdd! net39) C=4.3E-10
C11 (net34 net7) C=3.3E-7
T12 (net9 net88 net88 0) nfet L=0.95E-6 W=3.25E-6
T13 (net39 net16 net16 0) pfet L=0.88E-6 W=6.26E-6
C14 (net7 net6) C=8.3E-8
T15 (net100 net57 net57 0) pfet L=6.43E-6 W=4.85E-6
T16 (net49 net97 net97 0) pfet L=1.89E-6 W=4.28E-6
R17 (net102 net99) R=2.9E6
T18 (net37 net95 net95 0) nfet L=0.78E-6 W=8.85E-6
T19 (net75 net25 net25 0) nfet L=9.73E-6 W=4.64E-6
R20 (net10 vdd!) R=2.4E4
C21 (net17 net57) C=2.1E-10
T22 (net100 net66 net66 0) nfet L=1.51E-6 W=8.20E-6
T23 (net86 net6 net6 0) nfet L=6.29E-6 W=1.53E-6
C24 (net18 net73) C=4.0E-10
C25 (net43 vdd!) C=5.4E-10
T26 (net80 net28 net28 0) pfet L=8.40E-6 W=2.51E-6
R27 (net14 net103) R=3.1E0
T28 (net47 net32 net32 0) pfet L=0.94E-6 W=7.34E-6
T29 (net32 net98 net98 0) nfet L=6.55E-6 W=1.52E-6
R30 (net70 0) R=2.3E3
T31 (net73 net48 net48 0) pfet L=1.45E-6 W=7.09E-6
T32 (net78 vdd! vdd! 0) pfet L=6.94E-6 W=4.54E-6
T33 (net79 net68 net68 0) nfet L=4.75E-6 W=7.59E-6
R34 (net42 net1) R=5.7E1
C35 (vdd! net94) C=0.9E-7
R36 (net32 net58) R=2.5E1
T37 (net25 net88 net88 0) pfet L=6.87E-6 W=0.96E-6
R38 (net98 net66) R=9.4E5
C39 (net88 net60) C=1.5E-8
R40 (net84 net86) R=2.2E2
T41 (net51 net91 net91 0) nfet L=2.84E-6 W=8.47E-6
T42 (net81 net96 net96 0) pfet L=1.61E-6 W=9.97E-6
C43 (net13 net63) C=9.9E-11
T44 (net100 net48 net48 0) pfet L=1.39E-6 W=9.52E-6
T45 (net9 net97 net97 0) pfet L=7.45E-6 W=6.28E-6
R46 (net83 net90) R=7.0E4
C47 (net65 net42) C=3.4E-12
T48 (net65 vdd! vdd! 0) nfet L=0.38E-6 W=2.72E-6
T49 (net36 net59 net59 0) pfet L=5.43E-6 W=6.55E-6
T50 (net68 net44 net44 0) nfet L=2.99E-6 W=1.58E-6
T51 (net22 net30 net30 0) nfet L=8.91E-6 W=1.13E-6
T52 (net13 net19 net19 0) pfet L=7.72E-6 W=6.34E-6
T53 (net44 net93 net93 0) pfet L=0.56E-6 W=4.48E-6
T54 (net35 net88 net88 0) nfet L=3.71E-6 W=7.17E-6
T55 (net64 net49 net49 0) nfet L=9.80E-6 W=4.16E-6
R56 (net51 net77) R=9.8E2
C57 (net69 net4) C=3.6E-5
C58 (net26 net50) C=8.7E-5
C59 (net61 net78) C=2.3E-7
T60 (net48 net82 net82 0) pfet L=2.36E-6 W=3.72E-6
T61 (net48 net4 net4 0) pfet L=9.36E-6 W=2.46E-6
C62 (0 net57) C=9.4E-9
T63 (net11 net30 net30 0) nfet L=8.79E-6 W=5.30E-6
R64 (net59 net1) R=0.2E0
T65 (net65 net61 net61 0) pfet L=5.76E-6 W=9.52E-6
T66 (net63 net26 net26 0) nfet L=7.82E-6 W=7.08E-6
C67 (net25 net13) C=1.9E-7
T68 (net85 0 0 0) nfet L=4.02E-6 W=2.02E-6
T69 (vdd! net63 net63 0) pfet L=5.15E-6 W=5.19E-6
R70 (net91 0) R=0.6E6
R71 (net91 net39) R=7.0E4
T72 (net78 net71 net71 0) pfet L=7.79E-6 W=6.96E-6
T73 (net79 net83 net83 0) pfet L=7.39E-6 W=2.04E-6
T74 (net41 net100 net100 0) pfet L=4.22E-6 W=1.06E-6
T75 (net6 net100 net100 0) pfet L=9.90E-6 W=8.05E-6
C76 (net37 net7) C=5.3E-13
T77 (net38 net100 net100 0) nfet L=2.82E-6 W=7.20E-6
R78 (net5 net22) R=5.7E0
T79 (net1 vdd! vdd! 0) pfet L=1.39E-6 W=9.85E-6
R80 (net41 0) R=1.5E0
T81 (vdd! net31 net31 0) pfet L=5.90E-6 W=9.82E-6
R82 (net2 net7) R=8.1E2
T83 (net63 net84 net84 0) nfet L=0.67E-6 W=9.13E-6
C84 (net69 net43) C=1.5E-11
R85 (net70 net43) R=4.2E5
T86 (net71 net62 net62 0) nfet L=4.85E-6 W=8.06E-6
C87 (net12 net43) C=8.0E-12
R88 (net64 net66) R=9.3E1
T89 (net31 net46 net46 0) nfet L=2.36E-6 W=7.70E-6
C90 (vdd! net16) C=3.6E-7
C91 (net26 net31) C=7.9E-12
R92 (net83 net69) R=3.3E3
T93 (net86 net103 net103 0) pfet L=5.33E-6 W=3.89E-6
T94 (net63 net75 net75 0) pfet L=9.73E-6 W=7.72E-6
T95 (net47 net10 net10 0) nfet L=4.94E-6 W=8.87E-6
T96 (net36 net73 net73 0) pfet L=2.13E-6 W=7.43E-6
T97 (net23 net88 net88 0) nfet L=6.41E-6 W=2.92E-6
C98 (net40 vdd!) C=1.6E-10
C99 (net36 net2) C=7.4E-14
T100 (net22 net52 net52 0) nfet L=9.09E-6 W=5.84E-6
T101 (net86 net51 net51 0) nfet L=8.82E-6 W=6.63E-6
T102 (net90 net18 net18 0) pfet L=3.23E-6 W=2.36E-6
T103 (net62 net35 net35 0) nfet L=9.35E-6 W=4.41E-6
C104 (net96 net4) C=8.4E-11
T105 (net1 net22 net22 0) nfet L=0.35E-6 W=4.93E-6
R106 (net53 net54) R=8.6E2
R107 (net55 0) R=3.4E1
C108 (net45 net68) C=5.6E-12
T109 (net60 vdd! vdd! 0) pfet L=9.24E-6 W=2.56E-6
T110 (net48 net81 net81 0) pfet L=1.68E-6 W=3.44E-6
T111 (net71 net65 net65 0) nfet L=6.50E-6 W=7.53E-6
R112 (net82 net72) R=3.1E6
T113 (net51 net14 net14 0) nfet L=0.10E-6 W=2.20E-6
R114 (net31 net71) R=5.3E4
T115 (net13 net56 net56 0) pfet L=0.23E-6 W=3.08E-6
T116 (net68 net29 net29 0) nfet L=3.44E-6 W=5.80E-6
C117 (net20 net76) C=7.2E-10
T118 (net32 net76 net76 0) nfet L=9.08E-6 W=6.02E-6
T119 (0 net43 net43 0) nfet L=6.40E-6 W=5.38E-6
T120 (net51 net57 net57 0) pfet L=1.47E-6 W=5.69E-6
C121 (net99 net51) C=4.5E-10
C122 (net96 net81) C=5.5E-14
R123 (net85 net55) R=9.5E0
R124 (net85 net56) R=6.3E0
C125 (net32 net43) C=6.2E-10
T126 (net2 net27 net27 0) nfet L=10.00E-6 W=4.44E-6
R127 (net70 net36) R=1.4E6
C128 (net24 net4) C=6.3E-11
C129 (net13 net48) C=6.2E-10
C130 (vdd! net84) C=0.6E-14
C131 (net8 net78) C=6.5E-9
T132 (net45 vdd! vdd! 0) pfet L=0.53E-6 W=5.17E-6
T133 (net104 0 0 0) pfet L=6.16E-6 W=2.98E-6
C134 (net70 net76) C=6.5E-8
C135 (net104 net88) C=4.1E-6
C136 (net41 net34) C=2.4E-5
R137 (net95 net54) R=4.8E6
R138 (net20 net45) R=2.8E3
R139 (net45 net58) R=3.6E1
R140 (net65 net64) R=3.2E2
R141 (net17 net38) R=9.0E2
T142 (net102 0 0 0) nfet L=1.10E-6 W=7.01E-6
T143 (net102 net21 net21 0) nfet L=9.12E-6 W=9.13E-6
C144 (net50 net26) C=1.6E-10
R145 (net101 0) R=6.4E4
R146 (net81 net41) R=9.5E3
C147 (net92 net48) C=3.9E-11
T148 (net11 net98 net98 0) nfet L=3.47E-6 W=1.82E-6
C149 (net33 net8) C=6.0E-13
C150 (net90 net28) C=10.0E-12
C151 (net74 0) C=1.1E-14

