T1 (net10 net3 net3 0) nfet L=1.17E-6 W=4.20E-6
C2 (net2 net7) C=7.7E-9
T3 (net10 net4 net4 0) nfet L=8.53E-6 W=6.14E-6
T4 (net2 net3 net3 0) nfet L=6.84E-6 W=1.44E-6
C5 (net8 net10) C=4.4E-14
T6 (net5 net1 net1 0) pfet L=0.58E-6 W=2.70E-6
C7 (net4 net3) C=0.7E-10
C8 (net10 net6) C=3.8E-6
R9 (net1 net4) R=7.0E4
R10 (net5 net7) R=4.8E5
R11 (net10 net8) R=4.2E6
T12 (net5 net4 net4 0) pfet L=2.15E-6 W=3.58E-6
T13 (net1 net2 net2 0) pfet L=9.92E-6 W=8.35E-6
T14 (net6 0 0 0) pfet L=7.18E-6 W=7.52E-6
C15 (net9 net5) C=9.4E-12
R16 (net1 net8) R=1.8E5

